US05939451
0.113 g (0.00026 mol) of N-[3-(4-acetylamino-phenyl-sulfonylamino)-5-(acetyl-methyl-amino)-phenyl]-N-methyl-acetamide was dissolved in 10 ml of 1N NaOH and boiled at reflux for 2 hours. The mixture was neutralized with 1N HCl, extracted with ethyl acetate and the organic phase was dried over sodium sulfate. After removal of the solvent the residue was dissolved in 4 ml of methanol and treated with 3 ml of 2M HCl. After the addition of 7-8 ml of ethyl acetate the product separated out slowly. It was filtered off and dried in a vacuum. There was obtained 0.085 g (74%) of 4-amino-N-(3,5-bis-methylamino-phenyl)-benzenesulfonamide hydrochloride (1:2.6) as a pink coloured amorphous solid. MS (ISN): me/e=305 (C14H17N4O2S-).

reactant | N-[3-(4-acetylamino-phenyl-sulfonylamino)-5-(acetyl-methyl-amino)-phenyl]-N-methyl-acetamide | 0.00026 mol, 0.113 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C=C(C1)N(C)C(C)=O)N(C(C)=O)C | C20H24N4O5S
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 1N, 10 ml | [OH-].[Na+]
product | 4-amino-N-(3,5-bis-methylamino-phenyl)-benzenesulfonamide hydrochloride | 0.085 g, 74% | Cl.NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=CC(=C1)NC)NC | InChI=1S/C14H18N4O2S.ClH/c1-16-11-7-12(17-2)9-13(8-11)18-21(19,20)14-5-3-10(15)4-6-14;/h3-9,16-18H,15H2,1-2H3;1H
